US08314091B2
B: N-Cyclobutyl-3-(piperazin-1-ylmethyl)benzamide
To a stirred solution of tert-butyl 4-(3-(cyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate (8.84 mmol, 3.3 g) in dichloromethane (10 mL) was added trifluoroacetic acid (5 ml). The reaction mixture was stirred for 24 hours then concentrated under reduced pressure. Purification by strong cation exchange column chromatography gave the title compound (2.4 g). MS (ESI) m/z 274.5 [M+H]+

reactant | tert-butyl 4-(3-(cyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate | 8.84 mmol, 3.3 g | C1(CCC1)NC(=O)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C21H31N3O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-Cyclobutyl-3-(piperazin-1-ylmethyl)benzamide | 2.4 g | C1(CCC1)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H23N3O
